US06482986B1
a) 1-[4-(1,1-Dimethoxyethyl)phenyl]-4,4-dimethylcyclohexanol
328 ml of a 1.6 M solution of butyllithium in cyclohexane are added at −78° C. to 117 g of 1-bromo-4-(1,1-dimethoxyethyl)benzene in 1100 ml of tetrahydrofuran and the reaction mixture is stirred at −78° C. for 2 hours. 66 g of 4,4-dimethylcyclohexane dissolved in 210 ml of tetrahydrofuran are added at this same temperature and the reaction mixture is stirred for 1 hour at −78° C. The reaction mixture is hydrolysed by addition of crushed ice. The organic phase is separated out after settling of the phases has taken place, it is dried over sodium sulphate and the solvents are evaporated off under reduced pressure. The compound obtained is recrystallized from 500 ml of n-hexane; m.p.=88° C.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-(1,1-dimethoxyethyl)benzene | BrC1=CC=C(C=C1)C(C)(OC)OC | C10H13BrO2
reactant | 4,4-dimethylcyclohexane | 66 g | CC1(CCCCC1)C | C8H16
reactant | tetrahydrofuran | 1100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-[4-(1,1-Dimethoxyethyl)phenyl]-4,4-dimethylcyclohexanol | COC(C)(OC)C1=CC=C(C=C1)C1(CCC(CC1)(C)C)O | C18H28O3
